US04148897
In 100 ml. of ethanol is dissolved a mixture of 5 g. of 6,7-dimethoxy-3,4-dihydro-1(2H)-naphthalenone, 8 g. of 1-benzhydrylpiperazine hydrochloride and 10 g. of 37% aqueous formalin and the solution is allowed to stand at room temperature overnight, after which time it is heated at 80° C. for 7 hours. To the reaction mixture is added 500 ml. of water and, after shaking with 100 ml. of diethyl ether, the water layer is neutralized with sodium hydrogen carbonate and extracted with chloroform. The extract is dried and distilled under reduced pressure. To the oily residue is added methanol, whereupon 5 g. of 2-(4-benzhydryl-1-piperazinylmethyl)-6,7-dimethoxy-3,4-dihydro-1(2H)-naphthalenone is obtained as colorless crystals melting at 142°-144° C.

reactant | 6,7-dimethoxy-3,4-dihydro-1(2H)-naphthalenone | COC=1C=C2CCCC(C2=CC1OC)=O | C12H14O3
reactant | 1-benzhydrylpiperazine hydrochloride | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1
reactant | formalin | C=O | CH2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-benzhydryl-1-piperazinylmethyl)-6,7-dimethoxy-3,4-dihydro-1(2H)-naphthalenone | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CC1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C30H34N2O3
